US04053606
A solution of 0.1 mole of 2-di(methoxy)methyl-5-chloromethylpyridine in absolute alcohol (150 ml.) is added dropwise at 10°-15° C. over 20 minutes, to a suspension of 6 g. of sodium sulfide (Na2S2) in 50 ml. of absolute alcohol. The mixture stirred at room temperature for 1/2 hour, then 15 min. at 40°-50° C. and poured into 800 ml. of water. The mixture is extracted with ether and the extract is dried over magnesium sulfate and concentrated to an oil. The oil is dissolved in 80 ml. of 1 N hydrochloric acid and heated for 2- min. at 40° C. The mixture is cooled, adjusted to pH 7 with sodium bicarbonate and extracted with ethylacetate. The extract is dried over magnesium sulfate and concentrated to dryness to give bis[2-formyl-5-pyridylmethyl]disulfide.

reactant | 2-di(methoxy)methyl-5-chloromethylpyridine | 0.1 mole | COC(C1=NC=C(C=C1)CCl)OC | C9H12ClNO2
reactant | sodium sulfide | [S-2].[Na+].[Na+]
solvent | water | O | H2O
product | bis[2-formyl-5-pyridylmethyl]disulfide | C(=O)C1=NC=C(C=C1)CSSCC=1C=CC(=NC1)C=O | C14H12N2O2S2
